US05840751
6-(2-Chlorophenyl)-5,6-dihydro-4-hydroxy- 2H-pyran-2-one, (+/-)
The title compound was prepared as described in General Method 1 using 2.5 mL of methyl acetoacetate, 1.0 g of NaH 60% dispersion in oil, 12.5 mL of 2.0M n-butyl lithium in hexane, 3.3 mL of 2- chlorobenzaldehyde and 75 mL of tetrahydrofuran. After addition of the aldehyde, the reaction was stirred for 10 minutes at 0° C. then stirred for 2 hours at room temperature. The crude product was triturated from diethyl ether to afford a solid (m.p. 124°-125° C.). 1H NMR (CDCl3) δ 2.63 (dd, 1 H), 3.10 (dd, 1 H), 3.68 (dd, 2 H), 6.07 (dd, 1 H), 7.3-7.65 (m, 4 H).

reactant | methyl acetoacetate | 2.5 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 1.0 g | [H-].[Na+]
reactant | n-butyl lithium | 2.0M, 12.5 mL | C(CCC)[Li]
reactant | 2- chlorobenzaldehyde | 3.3 mL | ClC1=C(C=O)C=CC=C1 | C7H5ClO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 6-(2-Chlorophenyl)-5,6-dihydro-4-hydroxy- 2H-pyran-2-one | ClC1=C(C=CC=C1)C1CC(=CC(O1)=O)O | C11H9ClO3
